Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Nasonex / Evista / Penicillins
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Laparascopic cholecystectomy

 
History of Present Illness:
Ms. ___ is a pleasant ___ y/o female who presented to the 
ED with acute postprandial RUQ pain, and was found to have 
cholelithiasis without cholecystitis on RUQ U/S.  SHe passed a 
PO challenge and was discharged home to follow up with ACS, but 
returned once more later the same evening after another attack 
of ___ RUQ pain after eating yogurt and some bread. She denied 
any N/V, F/C, CP/SOB. She then elected for pursuing a 
cholecystectomy in light of recurrent biliary colic and 
cholelithiasis on RUQ U/S.

 
Past Medical History:
___ History: asthma, supraventricular tachycardia, 
cervical stenosis, prediabetes, osteoporosis, cataracts, basal 
cell carcinoma, ___ syndrome

Past Surgical History: TAH/BSO

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon Discharge:
Vitals: 98.1  77  144/72  18  96%RA
General: awake, alert, oriented x 3
HEENT: NCAT, EOMI, anicteric
Heart: RRR, NMRG
Lungs: CTAB, normal excursion, no respiratory distress
Chest: non-tender, no deformities
Back: no vertebral tenderness, no CVAT
Abdomen: soft, mildly and appropriately tender near incisions, 
nondistended, incisions clean/dry/intact with no 
erythema/drainage/induration
Extremities: WWP, no CCE, no tenderness

 
Pertinent Results:
___ 10:00AM BLOOD WBC-7.2 RBC-4.31 Hgb-13.8 Hct-42.4 MCV-98 
MCH-32.1* MCHC-32.7 RDW-12.3 Plt ___
___ 10:00AM BLOOD Neuts-53.3 ___ Monos-5.4 
Eos-12.5* Baso-1.6
___ 10:00AM BLOOD Glucose-101* UreaN-19 Creat-0.9 Na-143 
K-4.2 Cl-107 HCO3-26 AnGap-14
___ 10:00AM BLOOD ALT-32 AST-57* AlkPhos-72 TotBili-0.7
___ 10:00AM BLOOD Lipase-25
___ 10:00AM BLOOD Albumin-4.4

RUQ Ultrasound ___
FINDINGS: 
The liver shows no evidence of focal lesions or textural 
abnormality.  There is no evidence of intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder contains 
multiple stones measuring up to 1 cm, without distention, wall 
thickening, or pericholecystic fluid.  CBD measures 5 mm.  
Doppler assessment of the main portal vein shows patency and 
hepatopetal flow.  The spleen measures 8.3 cm and has 
homogeneous echotexture.   
IMPRESSION: Cholelithiasis without cholecystitis.

Pathology: pending at time of discharge
  

 
Brief Hospital Course:
Ms. ___ was admitted to ___ surgical service where she 
underwent a laparoscopic cholecystectomy on ___. The reader 
is referred to the Operative Note for further details.

Thereafter, she was admitted to the surgical floor for further 
care. She was given a clear liquid diet to be advanced to 
regular diet as tolerated. She was given oral pain medications 
for pain control. She was restarted on her essential home 
medications. She was encouraged to ambulate early and 
frequently.

She tolerated all these steps well. By POD#1, she reported 
feeling prepared to complete her recovery at home. She was 
tolerating a regular diet, had good pain control on oral 
medications, was taking all her usual home medications, was 
voiding, and was able to ambulate independently and without 
difficulty. She will plan to follow-up in ___ clinic as 
instructed. She was explained and expressed agreement with the 
discharge plan, and was discharged home in good condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
3. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. Rosuvastatin Calcium 5 mg PO DAILY 

 
Discharge Medications:
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Pantoprazole 40 mg PO Q12H 
3. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
4. Rosuvastatin Calcium 5 mg PO DAILY 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 
7. Docusate Sodium 100 mg PO BID 
8. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent biliary colic 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ where you underwent a laparoscopic 
cholecystectomy. You are now prepared to complete your recovery 
at home with the following instructions:

*Wound Care*
You have several incisions on your abdomen. You may have some 
small, tape like dressing over your incision. Leave these in 
place - they will fall off on their own. You may shower. Do not 
scrub over the incisions; wash over your incisions and allow the 
soap to fall over the wounds. If you notice any redness, 
increased pain, or any concerning changes in these incisions, 
please notify your physician.

*Diet*
You may eat a regular diet without restrictions.

*Activity*
You may resume all of your normal daily activities. We ask that 
you avoid swimming or heavy lifting for at least ___ weeks, at 
least until your follow up in clinic. Avoid driving or class if 
you still require narcotics for pain control.

*Medications*
Please take all medications as prescribed. If you require 
narcotic medications for pain control, do not drive. You may 
take tylenol or ibuprofen for pain control.

*Warning Signs*
Below is a list of signs that you should be mindful of upon 
discharge. If you notice any of these signs, please call your 
physician or go to your nearest emergency department for prompt 
evaluation.

Good luck with your recovery.
 
Followup Instructions:
___